US05840732
Using 2.23 g (10 mmol) of 5-(4-hydroxybutylthio) imidazo[1,2-c]pyrimidine, 1.53 ml (11 mmol) of triethylamine and 0.85 ml (11 mmol) of methanesulfonyl chloride, the same procedure as in Reference Example 8 was followed, to yield 5-(4-methanesulfonyloxybutylthio)-imidazo[1,2-c]pyrimidine.

reactant | 5-(4-hydroxybutylthio) imidazo[1,2-c]pyrimidine | 10 mmol, 2.23 g | OCCCCSC1=NC=CC=2N1C=CN2 | C10H13N3OS
reactant | triethylamine | 11 mmol, 1.53 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 11 mmol, 0.85 ml | CS(=O)(=O)Cl | CH3ClO2S
product | 5-(4-methanesulfonyloxybutylthio)-imidazo[1,2-c]pyrimidine | CS(=O)(=O)OCCCCSC1=NC=CC=2N1C=CN2 | C11H15N3O3S2
